US04636523
A stirred mixture of 30.5 g (0.085 mole) 2-(2-bromo-1,1,2,2-tetrafluoroethylthio)-1,3-dichlorobenzene and 13.3 g (0.10 mole) nitronium tetrafluoroborate (0.5M in sulfone) was heated at 100° C. for approximately 18 hours. An additional 4.0 g of nitronium tetrafluoroborate (solid) was added to the reaction mixture and heating was continued for 14 hours. The mixture was cooled and poured into 200 g of ice water. The resultant mixture was extracted with four 100 ml portions of methylene chloride and the extracts were combined. The organic extract was extracted with three 100 ml portions of a 2N sodium hydroxide solution. The basic aqueous extracts were combined and washed with 100 ml of methylene chloride. The washed extract was made acidic with concentrated hydrochloric acid while cooling in an ice bath. The acidic solution was saturated with sodium chloride and then was extracted with three 150 ml portions of methylene chloride. The organic extracts were combined and dried over anhydrous magnesium sulfate. After filtering the filtrate was evaporated under reduced pressure to leave an oil. This oil was subjected to column chromatography on silica gel, elution with n-heptane, to leave an oil after combining and evaporating the appropriate fractions. This oil was dissolved in n-heptane, leaving a small amount of solid which was removed by filtration. The filtrate was reduced in volume by evaporation under reduced pressure. An oil separated from the n-heptane solution and was removed by pipette. This oil (20.4 g) was found to be unreacted 1-(2-bromo-1,1,2,2-tetrafluoroethylthio)-2,6-dichlorobenzene. The remaining n-heptane was evaporated under reduced pressure to leave 13.3 g of 4-(2-bromo-1,1,2,2-tetrafluoroethylthio)-3,5-dichloronitrobenzene as an oil.

reactant | 2-(2-bromo-1,1,2,2-tetrafluoroethylthio)-1,3-dichlorobenzene | 0.085 mole, 30.5 g | BrC(C(SC1=C(C=CC=C1Cl)Cl)(F)F)(F)F | C8H3BrCl2F4S
reactant | nitronium tetrafluoroborate | 0.10 mole, 0.5M, 13.3 g | F[B-](F)(F)F.O=[N+]=O
reactant | nitronium tetrafluoroborate | 4.0 g | F[B-](F)(F)F.O=[N+]=O
product | 4-(2-bromo-1,1,2,2-tetrafluoroethylthio)-3,5-dichloronitrobenzene | 13.3 g | BrC(C(SC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)(F)F)(F)F | C8H2BrCl2F4NO2S
